US07893099B2
To a solution of (1R,2R,4R)-4-hydroxy-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester (1.0 mmol) in dichloromethane (5 ml) was added at 5° C. triethylamine (2.2 mmol) and methanesulfonyl chloride (2.2 mmol) and stirring was continued for 1 h. The mixture was partitioned between 1 N aqueous HCl and ethyl acetate, the organic layer was dried, evaporated and chromatographed on silica using ethyl acetate to give (1R,2R,4R)-4-methanesulfonyloxy-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester as a colorless oil. MS: 350.4 (M+H)+.

reactant | (1R,2R,4R)-4-hydroxy-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester | 1.0 mmol | C(C)OC(=O)[C@H]1[C@@H](C[C@H](C1)O)C(=O)N1CCOCC1 | C13H21NO5
reactant | triethylamine | 2.2 mmol | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.2 mmol | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (1R,2R,4R)-4-methanesulfonyloxy-2-(morpholine-4-carbonyl)-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@@H](C[C@H](C1)OS(=O)(=O)C)C(=O)N1CCOCC1 | C14H23NO7S
